US08859773B2
Step 4: 7-(trifluoromethyl)-1H-indazole-5-carboxylic acid
To a solution of methyl 7-(trifluoromethyl)-1H-indazole-5-carboxylate (62 mg, 0.25 mmol) in methanol (2 mL) and tetrahydrofuran (2 mL) was added 1 N aqueous lithium hydroxide (0.76 mL, 0.76 mmol). The reaction was heated to 60° C. for 17 hours. The reaction was concentrated and the residue was diluted with water and acidified to pH=3 with 1 N aqueous hydrochloric acid. The solution was extracted with dichloromethane (3×). The combined organics were washed with brine, dried over magnesium sulfate, filtered, and concentrated to give the title compound (17 mg, 29%) as an off-white powder. +ESI (M+H) 231.1.

reactant | methyl 7-(trifluoromethyl)-1H-indazole-5-carboxylate | 0.25 mmol, 62 mg | FC(C=1C=C(C=C2C=NNC12)C(=O)OC)(F)F | C10H7F3N2O2
reactant | lithium hydroxide | 0.76 mmol, 1 N, 0.76 mL | [OH-].[Li+]
solvent | methanol | 2 mL | CO | CH4O
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 7-(trifluoromethyl)-1H-indazole-5-carboxylic acid | 17 mg, 29% | FC(C=1C=C(C=C2C=NNC12)C(=O)O)(F)F | C9H5F3N2O2
